US05721248
2-Phenyl-isoindoline-4-carboxaldehyde
2.3 ml (3.7 mmol) of a 1.6 molar solution of butyllithium in hexane are added to 14 ml of dry ether in a dry apparatus under argon. A solution of 930 mg (3.4 mmol) of 4-bromo-2-phenylisoindoline in 10 ml of dry ether is then added dropwise at -70° C. The mixture is stirred at -70° C. for 30 minutes, and 0.3 ml of dry dimethylformamide in 0.5 ml of ether is added. The mixture is stirred at 70° C. for 3 hours and heated to -5° C., and 13.6 ml of 1N hydrochloric acid are added dropwise. 50 ml of ether are added and the mixture is separated. The aqueous phase is extracted by shaking with ether and the combined ether phases are washed once with water, dried and concentrated. 600 mg of yellowish crystals of melting point 120°-122° C. are obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 4-bromo-2-phenylisoindoline | 3.4 mmol, 930 mg | BrC1=C2CN(CC2=CC=C1)C1=CC=CC=C1 | C14H12BrN
reactant | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1N, 13.6 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 0.5 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 14 ml | CCOCC | C4H10O
product | 2-Phenyl-isoindoline-4-carboxaldehyde | 600 mg | C1(=CC=CC=C1)N1CC=2C=CC=C(C2C1)C=O | C15H13NO
